US06071909
Step 2: 1-(3-Chloromethylphenyl)-5-methylbenzimidazole HCl
1-(3-Hydroxymethylphenyl)-5-methylbenzimidazole (0.3 g, 1.26 mM) was dissolved in dichloromethane (3 ml). Thionyl chloride (92 μl, 1.26 mM) was added and the reaction stirred for 30 minutes. Solvent evaporated to obtain product (0.36 g). MS M+ 957.

reactant | 1-(3-Hydroxymethylphenyl)-5-methylbenzimidazole | 1.26 mM, 0.3 g | OCC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C | C15H14N2O
reactant | Thionyl chloride | 1.26 mM, 92 μl | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 1-(3-Chloromethylphenyl)-5-methylbenzimidazole HCl | 0.36 g | Cl.ClCC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C | InChI=1S/C15H13ClN2.ClH/c1-11-5-6-15-14(7-11)17-10-18(15)13-4-2-3-12(8-13)9-16;/h2-8,10H,9H2,1H3;1H
